US07855218B2
Description 87: N-(phenylmethyl)-2-propen-1-amine (D87)
To a solution of benzylamine (5.7 ml, 52.2 mmol) and sodium iodide (38 mg, 0.25 mmol) in DMSO (30 ml) was added dropwise allyl bromide (2.2 ml, 25.4 mmol) at 0° C. under argon. After stirring for 3 h at room temperature the reaction was complete as shown by TLC (cyclohexanes:ethyl acetate 1:1). Then saturated aqueous sodium bicarbonate solution was added, the product was extracted with diethyl ether (100 ml) and the organic layer was washed with brine. The crude product was purified via flash chromatography to give the title compound (2.1 g, 57%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ (ppm): 7.4-7.2 (m, 5H), 6.0-5.9 (m, 1H), 5.3-5.1 (m, 2H), 3.8 (s, 2H), 3.3 (d, 2H), 1.5 (bs, 1H).

reactant | benzylamine | 52.2 mmol, 5.7 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | allyl bromide | 25.4 mmol, 2.2 ml | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
catalyst | sodium iodide | 0.25 mmol, 38 mg | [I-].[Na+]
product | N-(phenylmethyl)-2-propen-1-amine | 2.1 g, 57% | C1(=CC=CC=C1)CNCC=C | C10H13N
